### ISSUE TITLE
unification `?m i =?= α i` assigns `?m := fun i => α i`

### ISSUE THREAD

**Issue by JovanGerb** [leanprover/lean4#4386]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The unification problem `?m i =?= α i` assigns `?m := fun i => α i`.

### Context

The following example was reported on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/weird.20Dtype.20for.20non-Dtypes.20using.20Pi.2EinstCompleteLattice/near/441006610)
```
import Mathlib.Data.ENNReal.Basic

def state (α : Type) : Type := α → ℕ

def myType (α : Type) : Type := (state α) → ENNReal

noncomputable instance cl {α : Type} : CompleteLattice (myType α) := Pi.instCompleteLattice

def sideCondition (s₁ s₂ s₂ : state α) : Prop := sorry

noncomputable def myMul (P Q : myType Var) : myType Var :=
  fun s => sSup { x | ∃ s₁ s₂ : state Var, sideCondition s s₁ s₂ ∧ x = P s₁ * Q s₂}

example {P₁ P₂ Q₁ Q₂ : myType Var} (hP : P₁ ≤ P₂) (hQ : Q₁ ≤ Q₂): myMul P₁ Q₁ ≤ myMul P₂ Q₂  := by
  intro s
  apply sSup_le
  intro b
  sorry
```
This gives a goal containing a term `(fun i => (fun i => (fun i => (fun i => (fun i => (fun a => ENNReal) i) i) i) i) i) s`.

### Steps to Reproduce

Copy this code:

```
instance Pi.hasLe {ι : Type u} {α : ι → Type v} [∀ i, LE (α i)] :
  LE (∀ i, α i) where le x y := ∀ i, x i ≤ y i

variable {ι : Type u} {α : ι → Type v} [inst : (i : ι) → LE (α i)]

set_option trace.Meta.isDefEq.assign true

#check @Pi.hasLe ι _ inst
```

**Expected behavior:** [Clear and concise description of what you expect to happen]

The assignment of the implicit variable should be `?m := α`

**Actual behavior:** [Clear and concise description of what actually happens]

The assignment of the implicit variable is `?m := fun i => α i`

### Versions

4.7.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by JovanGerb** [comment]
I've made a fix here: #4387
